US09334290B2
A solution of 2-amino-N-(3-bromo-2-methylphenyl)-3-fluorobenzamide (5.70 g, 17.6 mmol) in THF (100 mL) was treated with bis(trichloromethyl) carbonate (triphosgene) (6.28 g, 21.2 mmol) at room temperature and stirred for 15 min. The mixture was diluted with EtOAc, carefully treated with saturated aqueous NaHCO3 and stirred at room temperature until gas evolution stopped. The separated organic phase was washed sequentially with saturated aqueous NaHCO3, water and brine, and was dried and concentrated. The residue was triturated with ether to provide 3-(3-bromo-2-methylphenyl)-8-fluoroquinazoline-2,4(1H,3H)-dione as an off-white solid (6.00 g, 97% yield). Mass spectrum m/z 349, 351 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.59 (d, J=17.6 Hz, 1H), 7.99 (d, J=8.1 Hz, 1H), 7.70 (dd, J=7.8, 1.2 Hz, 1H), 7.54-7.43 (m, 1H), 7.28-7.21 (m, 2H), 7.21-7.17 (m, 1H), 2.28 (s, 3H).

reactant | 2-amino-N-(3-bromo-2-methylphenyl)-3-fluorobenzamide | 17.6 mmol, 5.70 g | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1F | C14H12BrFN2O
reactant | bis(trichloromethyl) carbonate | 21.2 mmol, 6.28 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-bromo-2-methylphenyl)-8-fluoroquinazoline-2,4(1H,3H)-dione | 6.00 g, 97% yield | BrC=1C(=C(C=CC1)N1C(NC2=C(C=CC=C2C1=O)F)=O)C | C15H10BrFN2O2
